Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fevers, Chills 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Mr. ___ is a ___ with no past medical history presenting as
transfer from ___ for fevers/chills,
diarrhea, chest and abdominal pain with RLL consolidation seen 
on
CT Abd/Pelvis. Patient was transferred to ___ with concern 
that
he may have abscess that could require drainage.  

The patient reports that he had been feeling well up until ___,
when he developed chills, watery diarrhea (up to 15 stools per
day), and shortness of breath. He has had two episodes of 
emesis.
No cough. No blood in stool. He has had minimal po intake, 
mainly
just fruit, and has tried staying hydrated with Pedialyte. 
Denies
any blood in his stool. Denies any recent course of antibiotics.
Does not take any medications normally. He had started taking
Advil PRN for fever over the past several days but discontinued
it as he did not find it effective in controlling his
temperature. 

No known sick contacts. No recent travel (originally from 
___
but lived in ___ since ___. He currently lives on ___ working in ___. 

He presented to ___ where he had a CT A/P which showed evidence
of RLL consolidation consistent with pneumonia with concerns for
possible abscess. Given this findings, he was transferred to
___ for further evaluation of his infection and consideration
of drainage of his abscess. 

In the ED, initial vitals were: 
T 101.4 (Tmax 102.9), BP 118/63, RR18, 97% RA 

Exam notable for:  
Gen: Tired-appearing
HEENT: Dry mucous membranes
CV: RRR, soft systolic murmur
Lungs: Crackles at R base
Abd: Diffusely tender to palpation, worst in RUQ, no
rebound/guarding
Ext: WWP

Labs notable for: 
WBC 9.0, Hgb 13.6, Plt 221
INR 1.5, ___ 16.1, PTT 25.4
ALT 126, AST 179, AP 89, TBili 0.8, Alb 3.5
Lactate 1.3 > 2.4 > 1.5  

Imaging was notable for:
CT Abd/Pelvis ___):
RLL subpleural masslike consolidation, 5.5 x 4.5 cm, with 
central
hypointensity suggestive of pneumonia with intraparenchymal
abscess, also consider septic embolus given peripheral location
  
CTA Chest: 
Right lower lobe consolidation likely represents pneumonia.
Additionally, mediastinal soft tissue presumably represents
reactive lymphadenopathy. Given degree of lymphadenopathy,
recommend repeat CT chest in 3 months to ensure resolution. No
pulmonary embolism or acute aortic abnormality. 

Patient was given:  
- 1L LR, 2L NS 
- Ceftriaxone 1g
- Azithromycin 500mg 
- Acetaminophen 1000mg

Upon arrival to the floor, patient reports the symptoms as noted
above. His main concern is his ongoing diarrhea. He notes that 
he
has had 5 BMs since presenting to the hospital, all watery in
nature. Denies much of an appetite. Does feel shortness of
breath, worsening with exertion, but denies any cough. 
 
Past Medical History:
none
 
Social History:
___
Family History:
Non-contributory for this presentation.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
=========================
VITAL SIGNS: ___ 1615 Temp: 100.6 PO BP: 101/69 HR: 90 RR:
18 O2 sat: 96% O2 delivery: ra  
GENERAL:  well developed, NAD
HEENT: NC/AT, PERRL, EOMI. MMM.
CARDIAC: RRR, normal S1 and S2, no MGR.
LUNGS: nonlabored respirations, diminished breath sounds in RLL
with E-to-A changes, clear to auscultation elsewhere
ABDOMEN: normoactive bowel sounds, nondistended, nontender to
palpation
EXTREMITIES: no lower extremity edema  
NEUROLOGIC: AOx3. Moving all four extremities with purpose.
Normal speech.
SKIN: Warm to touch, no rashes, healed scar on the right arm. 

ADMISSION PHYSICAL EXAM:  
=========================
VITALS: ___ 1145 Temp: 97.5 PO BP: 102/65 HR: 63 RR: 18 O2
sat: 98% O2 delivery: Ra 
GENERAL: Alert and NAD, well appearing
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: CTAB, decrease breath sound in the RLL field
GI: Abdomen soft, non-distended,+voluntary guarding
SKIN: Healed scar on right arm
 
Pertinent Results:
ADMISSION LABS:
================
___ 05:10AM BLOOD WBC-9.0 RBC-4.37* Hgb-13.6* Hct-39.5* 
MCV-90 MCH-31.1 MCHC-34.4 RDW-12.5 RDWSD-41.3 Plt ___
___ 05:10AM BLOOD Neuts-71.5* Lymphs-15.5* Monos-11.5 
Eos-0.0* Baso-0.3 Im ___ AbsNeut-6.41* AbsLymp-1.39 
AbsMono-1.03* AbsEos-0.00* AbsBaso-0.03
___ 05:10AM BLOOD Plt ___
___ 05:10AM BLOOD ___ PTT-25.4 ___
___ 09:29AM BLOOD Glucose-98 UreaN-15 Creat-1.3* Na-132* 
K-4.8 Cl-96 HCO3-19* AnGap-17
___ 05:10AM BLOOD Glucose-105* UreaN-16 Creat-1.4* Na-127* 
K-4.8 Cl-92* HCO3-17* AnGap-18
___ 05:10AM BLOOD ALT-126* AST-179* AlkPhos-89 TotBili-0.8
___ 05:10AM BLOOD Albumin-3.5
___ 05:33AM BLOOD Lactate-1.3
___ 09:44AM BLOOD Lactate-2.4*
___ 01:39PM BLOOD Lactate-1.5

  

Test                          Result              Reference 
Range/Units
LEGIONELLA PNEUMOPHILA AB     <1:64               
(IGG), IFA                                        
 
REFERENCE RANGE:  <1:64
 
A single titer >256 may provide
Presumptive evidence of infection
at an undetermined time. A single
titer of <256 is not considered
evidence of infection. A four-fold
rise in titer to >128 from the acute
to the convalescent ___ weeks post
acute) phase provides evidence of a
recent infection with Legionella.
THIS TEST WAS PERFORMED AT:
___ INFECTIOUS DISEASE, ___LD B-WEST WING
___, ___  ___ 
___

  

Test                          Result              Reference 
Range/Units
LEGIONELLA PNEUMOPHILA        <1:256              
ANTIBODY (IGM), IFA                               
 
REFERENCE RANGE: <1:256
 
This indirect immunofluorescent assay detects serum IgM
antibodies to Legionella pneumophila serogroups ___.
A single IgM titer of greater than 256 is presumptive
evidence of infection at an undetermined time. The best
serologic evidence of current or recent infection with
Legionella is IgG seroconversion or a fourfold rise in
IgG titers between acute and convalescent sera.
 
Most seroconversions occur within 3 weeks, but patients
should be monitored for 6 weeks, and some patients never
seroconvert. IgM antibody can persist for considerable
lengths of time, making separation of new from old disease
by the assessment of IgM antibody levels unfeasible.
 
This test was developed and its analytical performance
characteristics have been determined by ___
Infectious Disease. It has not been cleared or approved by
FDA. This assay has been validated pursuant to the ___
regulations and is used for clinical purposes.            
                       
THIS TEST WAS PERFORMED AT:
___ INFECTIOUS DISEASE, ___LD B-WEST WING
___, ___  ___ 
___

RELEVANT LABS:
=============
___ 06:35AM BLOOD WBC-10.0 RBC-4.09* Hgb-12.8* Hct-37.6* 
MCV-92 MCH-31.3 MCHC-34.0 RDW-12.9 RDWSD-43.4 Plt ___
___ 06:35AM BLOOD Plt ___
___ 06:35AM BLOOD ___ PTT-29.2 ___
___ 06:40PM BLOOD Glucose-127* UreaN-6 Creat-0.9 Na-134* 
K-4.4 Cl-95* HCO3-24 AnGap-15
___ 06:35AM BLOOD Glucose-91 UreaN-7 Creat-1.1 Na-133* 
K-4.6 Cl-97 HCO3-18* AnGap-18
___ 06:35AM BLOOD ALT-106* AST-142* LD(LDH)-468* AlkPhos-99 
TotBili-0.6
___ 06:35AM BLOOD Calcium-8.1* Phos-2.7 Mg-1.9
___ 06:40PM BLOOD Calcium-8.0* Phos-2.5* Mg-1.7

RELEVANT MICROBIOLOGY:
=======================
___ 5:28 am BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      CORYNEBACTERIUM SPECIES (DIPHTHEROIDS). 
         Isolated from only one set in the previous five days. 

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ @ ___ ON 
___ - ___. 
      GRAM POSITIVE ROD(S). 

___ 9:29 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

___ 9:29 am URINE

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 

___ 11:47 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

___ 11:47 am BLOOD CULTURE      X2. 

   Blood Culture, Routine (Pending):    No growth to date. 

___ 9:36 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

___ 1:28 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

RELEVANT IMAGING:
=================
___ Imaging CHEST (PA & LAT)
IMPRESSION: 
Right lower lobe pneumonia.

___ Imaging CTA CHEST 
1. Right lower lobe consolidation likely represents pneumonia.
2. Additionally, mediastinal soft tissue presumably represents 
reactive
lymphadenopathy. Given degree of lymphadenopathy, recommend 
repeat CT chest in 3 months to ensure resolution.
3. No pulmonary embolism or acute aortic abnormality.
 
DISCHARGE LABS:
=================
___ 06:50AM BLOOD WBC-9.5 RBC-4.21* Hgb-13.0* Hct-38.9* 
MCV-92 MCH-30.9 MCHC-33.4 RDW-12.9 RDWSD-43.6 Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-100 UreaN-7 Creat-1.0 Na-137 
K-4.7 Cl-100 HCO3-23 AnGap-14
___ 06:50AM BLOOD ALT-80* AST-94* AlkPhos-98 TotBili-0.3
___ 06:50AM BLOOD Calcium-8.4 Phos-3.5 Mg-1.8
___ 09:33AM BLOOD HIV Ab-NEG

 
Brief Hospital Course:
Mr. ___ is a ___ with no significant PMH who presented with 
fevers, chills, and diarrhea x2 weeks duration. He was found to 
have RLL consolidation on CT scan at ___, 
and was transferred to ___ for further workup. He was 
diagnosed with a community acquired pneumonia.

ACUTE ISSUES:
=============
# Fevers, Chills
# RLL Pneumonia
Patient presented with fevers, chills. He is not 
immunocompromised, has no risk factors for HAP and remained 
hemodynamically stable throughout much of his hospitalization 
with the exception mild orthostatic hypotension. He remained 
stable on RA throughout his hospitalization as well. Initially 
there was some concern for an abscess on CT scan at OSH, but 
repeat CT at ___ showed no evidence of abscess. He was also 
tested for HIV, which was negative. He was legionella negative 
and his urine strep antigen was pending at the time of discharge 
returned negative. He was started on ceftriaxone/azithromycin 
for CAP. Of note, his blood cultures returned with gram positive 
rods in ___ cultures (diphtheroids). The patient's blood 
cultures from ___ were negative. Thus, this was deemed a 
contaminat. The patient was discharged on total 7-day course of 
antibiotics (cefpodoxime, azithromycin) to end ___.

# Diarrhea
Etiology of his diarrhea is unclear. While the onset of his 
symptoms correlates with fevers and shortness of breath and was 
concerning for legionella, his urine legionella and blood 
IgG/IgM was negative. It is unlikely to be an inflammatory 
process as there was no blood in stools and he did not have any 
pain/discomfort. Of note, he was also C. diff negative. Due to 
his volume loss from the diarrhea, he was found to have 
orthostatic hypotension, which resolved with IV fluids. His 
diarrhea resolved by the time of discharge.

# Hyponatremia
He had hyponatremia on admission (127) that improved to 132 with 
IV fluid resuscitation. This was likely due to hypovolemic 
hyponatremia due to GI losses. On discharge sodium was 137.

# Transanimitis
His ___ is also of unclear etiology. It is possibly 
elevated due to the acute infection. His abdomen remained soft 
on exam without tenderness and on discharge his LFTs were 
downtrending. He should have his LFTs checked again 1 week after 
discharge to ensure they continue downtrending. IF remain 
elevated, would consider evaluation for other causes of LFT 
elevation.

# Acute renal failure
On admission his Cr was 1.3. There was no baseline creatinine to 
compare, however, he had no history of renal dysfunction. Given 
his diarrhea of 2 weeks, this was likely a prerenal ___ due to 
poor intake and ongoing GI losses. On discharge was his 
creatinine improved to 1.0

Transitional Issues:

[] Complete 7 day antibiotic course (cefpodoxime/azithromycin) 
___ to end ___- The patient received medications to bedside 
on discharge
[] PCP to ensure that patient gets a repeat CT in 3 months to 
ensure resolution of mediastinal soft tissue (presumably 
represents reactive lymphadenopathy currently) and exclude 
malignancy- This was communicated to the patient
[] Patient needs repeat LFTs in 1 week to ensure they continue 
to improve

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 3 Doses 
RX *azithromycin 250 mg 1 tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*0 
2.  Cefpodoxime Proxetil 200 mg PO Q12H 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice a day Disp #*6 
Tablet Refills:*0 
3.Outpatient Lab Work
Labs in one week to trend LFTs: AST, ALT, Alk phos.
ICD 10 J18.9 pneumonia
Please fax to patient PCP. He will provide the fax number.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
======================
COMMUNITY ACQUIRED PNEUMONIA 

Secondary Diagnosis
======================
___ 
Diarrhea 
Hyponatremia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were having fevers, chills, and diarrhea. You were found 
to have evidence of pneumonia on a CT scan at the outside 
hospital, so you were transferred to ___ for further 
workup.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were treated with antibiotics.
- You were also found to have low blood pressure due to your 
diarrhea and received fluids through your IV to hydrate you. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- You need to take antibiotics for a few more days. Your LAST 
DAY of antibiotics is ___.
- Please continue to take all of your medications and follow-up 
with your appointments as listed below.

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___